US07169789B2
N-(2-Chloro-4-{[6-methoxy-7-(3-piperidinopropoxy)-4-quinazolinyl]oxy}phenyl)-N′-ethylurea
N-{2-Chloro-4-[(7-hydroxy-6-methoxy-4-quinazolinyl)oxy]phenyl}-N′-ethylurea (2.7 g) was dissolved in N,N-dimethylformamide (30 ml), and triphenylphosphine(3.6 g), piperidinopropanol (1.2 g), and diethyl azodicarboxylate (2.4 g) were added to the solution. The mixture was stirred at room temperature for 2 hr. Triphenylphosphine(3.6 g), piperidinopropanol (0.8 g), and diethyl azodicarboxylate (1.9 g) were then again added to the reaction solution. The mixture was stirred at room temperature for additional 10 hr. The solvent was removed by distillation under the reduced pressure, and the residue was purified by chromatography on silica gel by development with chloroform/methanol (20/1) to give 1.5 g (yield 42%) of the title compound.

reactant | N-{2-Chloro-4-[(7-hydroxy-6-methoxy-4-quinazolinyl)oxy]phenyl}-N′-ethylurea | 2.7 g | ClC1=C(C=CC(=C1)OC1=NC=NC2=CC(=C(C=C12)OC)O)NC(=O)NCC | C18H17ClN4O4
reactant | triphenylphosphine | 3.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | piperidinopropanol | 1.2 g | N1(CCCCC1)C(CC)O | C8H17NO
reactant | diethyl azodicarboxylate | 2.4 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | Triphenylphosphine | 3.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | piperidinopropanol | 0.8 g | N1(CCCCC1)C(CC)O | C8H17NO
reactant | diethyl azodicarboxylate | 1.9 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | N-(2-Chloro-4-{[6-methoxy-7-(3-piperidinopropoxy)-4-quinazolinyl]oxy}phenyl)-N′-ethylurea | 1.5 g, yield 42% | ClC1=C(C=CC(=C1)OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCCC1)NC(=O)NCC | C26H32ClN5O4
